US06228808B1
2-tert-Butylsaccharin-6-carbonyl chloride
15.0 g of (0.05 mol) of tert-butylsulfamoylterephthalic acid in 95 ml of thionyl chloride were heated under reflux for 8 h. The mixture was concentrated and the residue was triturated with ethyl acetate. This gave 14.6 g (97% of theory) of 2-tert-butylsaccharin-6-carbonyl chloride of m.p. 185-186° C.

reactant | tert-butylsulfamoylterephthalic acid | 0.05 mol, 15.0 g | C(C)(C)(C)NS(=O)(=O)C1=C(C(=O)O)C=CC(=C1)C(=O)O | C12H15NO6S
reactant | thionyl chloride | 95 ml | S(=O)(Cl)Cl | Cl2OS
product | 2-tert-Butylsaccharin-6-carbonyl chloride | C(C)(C)(C)N1S(=O)(=O)C2=CC(=CC=C2C1=O)C(=O)Cl | C12H12ClNO4S
